US05137653
Next, 2.02 g (11.4 mmol) of the above (+)-2-methyloctanoic acid chloride and 3 ml of nitrobenzene were charged into a flask, and cooled to 0° C., to which was added 3.06 g (22.9 mmol) of anhydrous aluminum chloride with stirring and then the resulting mixture was stirred at room temperature for 30 minutes. This mixture was added with a solution of 2.89 g (7 mmol) of (+)-2-methyloctanoic acid biphenyl dissolved in 3 ml of nitrobenzene, which was reacted at room temperature for 140 hours with stirring. After the completion of the reaction, 2N hydrochloric acid and ice were added, and the extraction with chloroform was carried out, and the extract was washed with water, dried on anhydrous magnesium sulfate, distilled to remove the solvent, and purified by a column chromatography of silica gel to obtain 1.55 g (yield 49%) of an oily (+)-2-methyloctanoic acid-4-(2-methyloctanoyl) biphenyl.

reactant | (+)-2-methyloctanoic acid chloride | 11.4 mmol, 2.02 g | CC(C(=O)Cl)CCCCCC | C9H17ClO
reactant | aluminum chloride | 22.9 mmol, 3.06 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (+)-2-methyloctanoic acid biphenyl | 7 mmol, 2.89 g | C1(=CC=CC=C1)C1=CC=CC=C1.CC(C(=O)O)CCCCCC
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | nitrobenzene | 3 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 3 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | (+)-2-methyloctanoic acid 4-(2-methyloctanoyl) biphenyl | 1.55 g, yield 49% | CC(C(=O)O)CCCCCC.CC(C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CCCCCC | InChI=1S/C21H26O.C9H18O2/c1-3-4-5-7-10-17(2)21(22)20-15-13-19(14-16-20)18-11-8-6-9-12-18;1-3-4-5-6-7-8(2)9(10)11/h6,8-9,11-17H,3-5,7,10H2,1-2H3;8H,3-7H2,1-2H3,(H,10,11)
